US07615642B2
Step B: tert-Butyl[(4-fluorocyclohex-3-en-1-yl)methyl]carbamate
4-N-Boc-aminomethyl cyclohexanone (4.95 g, 21.8 mmol) was dissolved in THF (80 mL). DAST (4.3 mL, 32.7 mmol) was added dropwise and the solution was stirred at 50° C. for 5 h. The solvent was concentrated and the product purified by flash chromatography on silica gel using hexanes/EtOAc (3:1) as eluent. Yield: 1.62 g (30%). 1H NMR (400 MHz, CDCl3) δ 1.36-1.42 (m, 1 H), 1.44 (s, 9 H), 1.70-1.80 (m, 2 H), 1.82-1.90 (m, 1 H), 2.09-2.17 (m, 1 H), 2.17-2.29 (m, 2 H), 3.04-3.11 (m, 2 H), 4.61 (s, 1 H), 5.11-5.19 (m, 1 H).

reactant | 4-N-Boc-aminomethyl cyclohexanone | 21.8 mmol, 4.95 g | CC(C)(C)OC(=O)NCC1CCC(=O)CC1 | C12H21NO3
reactant | DAST | 32.7 mmol, 4.3 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | tert-Butyl[(4-fluorocyclohex-3-en-1-yl)methyl]carbamate | C(C)(C)(C)OC(NCC1CC=C(CC1)F)=O | C12H20FNO2
